US04943587
N-Hydroxy-N-methyl-2-[(2,6-dichlorophenyl)amino]-benzeneacetamide.
1,1'-Carbonyl-diimidazole (5.5 g; 34 mmol) is slowly added to a warm solution of 2-[(2,6-dichlorophenyl)-amino]-benzeneacetic acid (6.5 g; 22 mmol) in CH2Cl2 (600 mL) and stirred at room temperature for 2.0 hours when a clear solution is formed. N-Methylhydroxylamine hydrochloride (5.5 g; 66 mmol) is slowly added to the solution and the mixture stirred at room temperature for 48 hours. It is decomposed with water, extracted with CH2Cl2 and dried over Na2SO4. The solvent is evaporated off and the residue flash chromatographed over silica gel (250 g) using 10% EtOH-CH2Cl2 as eluant to give the pure product as white solid which is recrystallized from toluene-CH2Cl2. Yield 2.95 g (41.2%); mp 135°-138° C.

reactant | 1,1'-Carbonyl-diimidazole | 34 mmol, 5.5 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 2-[(2,6-dichlorophenyl)-amino]-benzeneacetic acid | 22 mmol, 6.5 g | ClC1=C(C(=CC=C1)Cl)NC1=C(C=CC=C1)CC(=O)O | C14H11Cl2NO2
reactant | N-Methylhydroxylamine hydrochloride | 66 mmol, 5.5 g | Cl.CNO
reactant | water | O | H2O
solvent | CH2Cl2 | 600 mL | C(Cl)Cl | CH2Cl2
product | N-Hydroxy-N-methyl-2-[(2,6-dichlorophenyl)amino]-benzeneacetamide | ON(C(CC1=C(C=CC=C1)NC1=C(C=CC=C1Cl)Cl)=O)C | C15H14Cl2N2O2
